US08809352B2
3-[4-((R)-3-Morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonylamino]-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester
3-Bromo-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester (154 mg, 0.486 mmol), 4-((R)-3-morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethane sulfonyl-benzenesulfonamide (269 mg, 0.486 mmol), (1S,2S)—N,N′-dimethyl-cyclohexane-1,2-diamine (0.011 mL, 0.146 mmol), cesium carbonate (269 mg, 0.825 mmol), and copper (I) iodide (13.87 mg, 0.073 mmol) were added to a microwave vial followed by toluene (8 mL). The reaction mixture was degassed for 15 minutes under nitrogen, sealed, and then heated conventionally to 90° C. for 14 hours. The crude material was directly purified via flash chromatography on silica gel (0-15% 2N NH3 in methanol in CH2Cl2) to afford the title compound (170 mg, 44% yield). MS [m/z; (M+1)+]: 790.5

reactant | 3-Bromo-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester | 0.486 mmol, 154 mg | C(C)(C)(C)OC(=O)N1CCN2C(=NN=C2CC1)Br | C11H17BrN4O2
reactant | 4-((R)-3-morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethane sulfonyl-benzenesulfonamide | 0.486 mmol, 269 mg | N1(CCOCC1)CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C21H26F3N3O5S3
reactant | (1S,2S)—N,N′-dimethyl-cyclohexane-1,2-diamine | 0.146 mmol, 0.011 mL | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.825 mmol, 269 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper (I) iodide | 0.073 mmol, 13.87 mg | [Cu]I
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-((R)-3-Morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonylamino]-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester | 170 mg, 44% yield | C(C)(C)(C)OC(=O)N1CCN2C(=NN=C2CC1)NS(=O)(=O)C1=CC(=C(C=C1)N[C@H](CCN1CCOCC1)CSC1=CC=CC=C1)S(=O)(=O)C(F)(F)F | C32H42F3N7O7S3
